US04025622
1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-benzyl-2-thiourea
To 10 ml of anhydrous xylene were added 390 mg (1 mmol) of 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate and then slowly added 110 mg (1 mmol) of benzylamine (MW 107) under ice-cooling and stirring over 30 minutes. The mixture was then stirred at room temperature for 1.5 hours, during which crystals were deposited and then filtered off. Recrystallization from ethanol gave colourless needles melting between 126° and 128° C. (uncorrected). Yield: 198 mg (40%).

reactant | 2,3,4,6-tetra-O-acetyl-D-glucopyranosyl isothiocyanate | 1 mmol, 390 mg | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=C=S | C15H19NO9S
reactant | benzylamine | 1 mmol, 110 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-3-benzyl-2-thiourea | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)NC(=S)NCC1=CC=CC=C1 | C22H28N2O9S
